2150-03-30 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2150-3-29**]:
   - Pt changed from A fib at rate 130s-140s on admission to 2:1 flutter
   at 126-128.
   - O2 sat 91-93 on 6L, repeat CXR showed hilar fullness
   - Started Amiodarone drip and bolus with no change
   - Attempted Esmolol drip, however patient's heart rate did not change
   and developed nausea
   - Had hematuria in foley, likely traumatic
   - Restarted Amiodarone drip, Pt remained in 2:1 flutter all night at a
   rate of around 125
   Allergies:
   Anesthesia IV (Miscell.) (IV Administration Set-Clamp)
   unspecified car
   Flagyl (Oral) (Metronidazole)
   Drowsiness/Fati
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2150-3-29**] 05:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-3-30**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 121 (120 - 147) bpm
   BP: 96/64(71) {82/47(58) - 124/94(98)} mmHg
   RR: 27 (18 - 38) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  1,371 mL
                                                                    331 mL
   PO:
                                                                    100 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    371 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    277 mL
   Urine:
                                                                  1,110 mL
                                                                    277 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    261 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevation of JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular tachycardic, normal S1, S2. No m/r/g. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1+ PT 1+
   Left: Carotid 2+ Femoral 2+ DP 1+ PT 1+
   Labs / Radiology
   322 K/uL
   13.8 g/dL
   127 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.4 mEq/L
   29 mg/dL
   100 mEq/L
   136 mEq/L
   41.9 %
   17.6 K/uL
        [image002.jpg]
                             [**2150-3-29**]  05:12 PM
                             [**2150-3-30**]  12:11 AM
                             [**2150-3-30**]  05:06 AM
   WBC
   17.8
   17.6
   Hct
   45.6
   41.9
   Plt
   368
   322
   Cr
   1.1
   1.3
   TropT
   <0.01
   <0.01
   Glucose
   117
   127
   Other labs: PT / PTT / INR:14.3/142.8/1.2, CK / CKMB /
   Troponin-T:34//<0.01, Ca++:9.0 mg/dL, Mg++:3.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female with history of paroxysmal atrial fib admitted to the CCU
   for recurrent a fib with [**Age over 90 1427**].
   .
   # A fib:  The patient is followed by Dr. [**Last Name (STitle) **].  She had taken
   amiodarone for years in the past, however discontinued and restarted
   recently following DC cardioversion.  No clear cause of increased
   occurences of a fib with [**Last Name (STitle) 1427**], TSH on last admission wnl, UA and CXR
   today showed no signs of infection however pt has leukocytosis.
   Patient did not tolerate esmolol drip because of hypotension overnight.
   - Patient may not be able to have TEE/DCCV today because of holiday
   (unless she is unstable) so will call anesthesia to see availability
   today
   - Will continue amio overnight and if does not convert will likely be
   able to get TEE/cardioversion tomorrorw
   - continue systemic HTN with heparin gtt
   .
   # PUMP:  Pt has history of diastolic dysfunction with LVH but preserved
   EF.  Pt had evidence of volume overload after aggressive volume
   resuscitation in the ED on admission.
   - 40mg of IV lasix PRN as still with O2 requirement
   - Monitor for pulmonary edema, treat with PRN lasix.
   .
   # CORONARIES:  No previous cath, no previous history of MI.
   - ROMI
   - Continue aspirin
   .
   # Hypertension:  On recent admission lisinopril, amlodipine, metoprolol
   and HCTZ were discontinued.  Will monitor blood pressures with [**Last Name (STitle) 1427**].
   Likely will not need antihypertensives.
   - Will restart beta blockers as tolerated
   .
   # Leukocytosis:  A febrile, no subjective fevers.  No clear sign of
   infection on CXR or UA.  As the patient has been admitted recently,
   will consider C diff if develops diarrhea.  Likely stress reaction, as
   noted on previous admission as well.
   - Monitor daily
   .
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin drip, home ranitidine
   -Pain managment with tylenol
   -Bowel regimen with colace and senna
   CODE: Full Code
   DISPO: CCU for now
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-3-29**] 05:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Patient examined.  I agree with Dr. [**Last Name (STitle) 6668**]
s H+P, A+P.  Persistent
   atrial flutter with 2:1 block with moderately fast rates.  Therefore,
   TEE/CV planned.  TEE showed no atrial thrombus.  Electrical CV 200
   Joules to SR.   Tolerated without evident complication.  Rest of plan
   as above.  We plan continued anticoagulation acutely with heparin and
   will discuss long-term anticoagulation options with Dr. [**Last Name (STitle) **].
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2150-3-30**] 11:52 ------

2150-03-31 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE/DCCV with NSR in 60s afterward
   - Continued hep gtt as will need at least 3 weeks coumadin since been
   cardioverted and continued amio gtt for maintenance of NSR
   Allergies:
   Anesthesia IV (Miscell.) (IV Administration Set-Clamp)
   unspecified car
   Flagyl (Oral) (Metronidazole)
   Drowsiness/Fati
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2150-3-30**] 09:00 AM
   Lorazepam (Ativan) - [**2150-3-30**] 11:00 AM
   Fentanyl - [**2150-3-30**] 11:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-3-31**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 64 (61 - 127) bpm
   BP: 112/46(60) {80/36(54) - 146/79(86)} mmHg
   RR: 23 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    932 mL
                                                                     92 mL
   PO:
                                                                     80 mL
             TF:
   IVF:
                                                                    852 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                    891 mL
                                                                    135 mL
   Urine:
                                                                    891 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     41 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevation of JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular tachycardic, normal S1, S2. No m/r/g. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1+ PT 1+
   Left: Carotid 2+ Femoral 2+ DP 1+ PT 1+
   Labs / Radiology
   317 K/uL
   13.5 g/dL
   96 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   40 mg/dL
   102 mEq/L
   138 mEq/L
   40.6 %
   16.9 K/uL
        [image002.jpg]
                             [**2150-3-29**]  05:12 PM
                             [**2150-3-30**]  12:11 AM
                             [**2150-3-30**]  05:06 AM
                             [**2150-3-31**]  02:33 AM
   WBC
   17.8
   17.6
   16.9
   Hct
   45.6
   41.9
   40.6
   Plt
   368
   322
   317
   Cr
   1.1
   1.3
   1.7
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   117
   127
   96
   Other labs: PT / PTT / INR:13.7/70.8/1.2, CK / CKMB /
   Troponin-T:34//<0.01, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female with history of paroxysmal atrial fib admitted to the CCU
   for recurrent a fib with RVR.
   # A fib:  Unclear precipitant. Only hint is leukocytosis but no orhter
   localizing symptoms. UA and CXR inconsistnt with infection. WBCs have
   been stable over last weeks. S/P recent DCCV and amiodarone.
   - S/p TEE/DCCV yesterday with persistent NSR following.
   - Will continue amio for rate/rhythm cntr
   - continue systemic anticoagulation with heparin gtt; will transition
   to warfarin and touch base with Dr [**Last Name (STitle) **]
   # PUMP:  Pt has history of diastolic dysfunction with LVH but preserved
   EF. Exam conssitent with pulmonary edema and extremity swelling. This
   is attriuted to the tachycardia and decreased filling in this setting.
   CXR shows pulmonary effusion.
   - 40mg of IV lasix PRN as still with O2 requirement,
   - Monitor for pulmonary edema, treat with PRN lasix.
   # Leukocytosis:  Pt had a fever overnight to 100.6, however unclear
   source of infection.  CXR no infiltrate however unclear given large
   amount of pulmonary edema, may have underlying infection. Concern for
   aspiration given her couch.
   - consider PA LAT and sputum studies to eval for PNA
   - will send c diff if diarrhea
   - s/s consult ? aspiration
   - if remains febrile or if worsended WBC or if PNA on CXR will add abx
   for aspiration.
   # ARF:  Secondary to poor forward flow and hypotension.   Will monitor
   [**Hospital1 7**]
   # CORONARIES:  No previous cath, no previous history of MI.  Cardiac
   enzymes never positive
   - Continue aspirin
   # Hypertension:  Has been stable overnight.
   - Will restart beta blockers as tolerated
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin drip, home ranitidine
   -Pain managment with tylenol
   -Bowel regimen with colace and senna
   FULL CODE
   Dispo:  Likely send to [**Hospital Ward Name 289**] 3 today
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU Rounds with
   team.  S/P cardioversion to sinus rhythm yesterday.  Som eheart failure
   on exam and CXR.  Will diurese.  Also with ? aspiration when swallowing
   pills, eating.  Will request formal speech/swallow consult.  Will begin
   warfarin given recurrent atrial arrhythmias.  OK for transfer to
   floor.  I agree with Dr. [**Last Name (STitle) 5077**]
s H+P, A+P.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2150-3-31**] 14:03 ------